US05990142
15E 4-Chloro-2-(3-phenylpropyl)-2,3-dihydrobenzofuran-5-carbonitrile
Following the process described in example 3 (point B), starting from 4-chloro-2-trifluoromethanesulfonyloxymethyl-2,3-dihydrobenzofuran-5-carbonitrile and 2-bromoethylbenzene, the title compound was prepared, which was purified by chromatography through a silica gel column, eluting with petroleum ether:ethyl ether, 95:5 (68% yield).

reactant | 4-chloro-2-trifluoromethanesulfonyloxymethyl-2,3-dihydrobenzofuran-5-carbonitrile | ClC1=C(C=CC2=C1CC(O2)COS(=O)(=O)C(F)(F)F)C#N | C11H7ClF3NO4S
reactant | 2-bromoethylbenzene | BrCCC1=CC=CC=C1 | C8H9Br
product | 4-Chloro-2-(3-phenylpropyl)-2,3-dihydrobenzofuran-5-carbonitrile | 68% yield | ClC1=C(C=CC2=C1CC(O2)CCCC2=CC=CC=C2)C#N | C18H16ClNO
